* C:\Users\srudr\AppData\Local\Programs\ADI\LTspice\NEURO TC\2_Coincidence.asc
C1 x 0 10n
R1 x N002 500
V1 N002 0 PULSE(0 100 1u 0 0 2u 40u 2) AC 1
V2 N003 0 PULSE(0 100 10u 0 0 2u 40u 1) AC 1
R2 x N003 500
V3 N001 0 15 Rser=1
V4 P001 0 20
XU1 x N001 P001 P002 op level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
B1 op 0 V=if(V(x) >15, 010, 0)
V5 P002 0 -20
R3 x 0 100k
.tran 30u
* Output
.lib UniversalOpAmp2.lib
.backanno
.end
